US07723347B2
N-(2-Fluoro-4-nitrophenyl)-N-methyl-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridine-4-amine
A solution of 100 mg (0.25 mmol) of N-(2-fluoro-4-nitrophenyl)-1-{[2-(trimethyl-silyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridine-4-amine in 0.75 ml of DMA is added dropwise to a suspension of 30 mg (0.75 mmol) of sodium hydride in 0.75 ml of DMA, and the mixture is stirred at RT for 30 min. 77 μl (1.24 mmol) of methyl iodide are then slowly added dropwise, and the mixture is stirred for a further 30 min. Water is then added, and the mixture is extracted twice with dichloromethane. The combined organic phases are dried over magnesium sulfate, the solvent is removed under reduced pressure and the residue is purified by preparative HPLC.

reactant | N-(2-fluoro-4-nitrophenyl)-1-{[2-(trimethyl-silyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridine-4-amine | 0.25 mmol, 100 mg | FC1=C(C=CC(=C1)[N+](=O)[O-])NC=1C2=C(N=CC1)N(C=C2)COCC[Si](C)(C)C | C19H23FN4O3Si
reactant | sodium hydride | 0.75 mmol, 30 mg | [H-].[Na+]
reactant | methyl iodide | 1.24 mmol, 77 μl | CI | CH3I
reactant | Water | O | H2O
solvent | DMA | 0.75 ml | CC(=O)N(C)C | C4H9NO
solvent | DMA | 0.75 ml | CC(=O)N(C)C | C4H9NO
product | N-(2-Fluoro-4-nitrophenyl)-N-methyl-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridine-4-amine | FC1=C(C=CC(=C1)[N+](=O)[O-])N(C=1C2=C(N=CC1)N(C=C2)COCC[Si](C)(C)C)C | C20H25FN4O3Si
